US09126931B2
8-(2-Hydroxy-1-hydroxymethylethoxy)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile
Anhydrous ferric trichloride (56 mg, 5 eq.) was added to the dichloromethane (2 mL) suspension of 6,6-dimethyl-11-oxo-8-(2-phenyl-[1,3]dioxan-5-yloxy)-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile (Compound A7-13-1, 13 mg, 0.028 mmol), and stirred at room temperature for 1 hr. The reaction solution was added to water, and then extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over sodium sulfate. The drying agent was removed by filtration and the residues obtained after concentration under reduced pressure were purified by high performance liquid chromatography to obtain the title compound (7 mg, 46%).

reactant | dichloromethane | 2 mL | ClCCl | CH2Cl2
reactant | 6,6-dimethyl-11-oxo-8-(2-phenyl-[1,3]dioxan-5-yloxy)-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 0.028 mmol, 13 mg | CC1(C2=C(C(C=3C4=CC=C(C=C4NC13)C#N)=O)C=CC(=C2)OC2COC(OC2)C2=CC=CC=C2)C | C29H24N2O4
solvent | water | O | H2O
product | 8-(2-Hydroxy-1-hydroxymethylethoxy)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 7 mg, 46% | OCC(OC=1C=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C1)CO | C22H20N2O4
